US07598249B2
4-(2,2-Difluoro-benzo[1,3]dioxol-5-ylmethyl)-piperazine-1-carboxylic acid pyridin-3-ylamide
The title compound was prepared from pyridin-3-yl-carbamic acid phenyl ester and 1-(2,2-difluoro-benzo[1,3]dioxol-5-ylmethyl)-piperazine in analogy with Example 142. 1H NMR (400 MHz, CDCl3): 8.46 (d, J=2.5 Hz, 1H), 8.23-8.21 (m, 1H), 7.99-7.96 (m, 1H), 7.22-7.19 (m, 2H), 7.11 (s, 1H), 6.99-6.98 (m, 2H), 3.54-3.52 (m, 4H), 3.49 (s, 2H), 2.46-2.44 (m, 4H).

reactant | pyridin-3-yl-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC=1C=NC=CC1)=O | C12H10N2O2
reactant | 1-(2,2-difluoro-benzo[1,3]dioxol-5-ylmethyl)-piperazine | FC1(OC2=C(O1)C=CC(=C2)CN2CCNCC2)F | C12H14F2N2O2
product | 4-(2,2-Difluoro-benzo[1,3]dioxol-5-ylmethyl)-piperazine-1-carboxylic acid pyridin-3-ylamide | N1=CC(=CC=C1)NC(=O)N1CCN(CC1)CC1=CC2=C(OC(O2)(F)F)C=C1 | C18H18F2N4O3
